US07435815B2
Cyclopropyl-(3-methyl-benzyl)-amine
prepared by reaction of cyclopropylamine with 3-methyl-benzaldehyde

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3-methyl-benzaldehyde | CC=1C=C(C=O)C=CC1 | C8H8O
product | Cyclopropyl-(3-methyl-benzyl)-amine | C1(CC1)NCC1=CC(=CC=C1)C | C11H15N
